US08609644B2
5α-Hydroxy-6β-cyanoandrostane-3,17-dione (II-ae)
The title compound II-ai was prepared in 82% yield from 3,3:17,17-bis(ethylendioxy)-5α-hydroxy-6β-cyanoandrostane by the procedure described above for the preparation of 6α-cyanoandrostane-3,17-dione (II-ac, Prepn. 3). The crude product was purified by flash chromatography (SiO2, n-hexane/CH2Cl2/acetone 60/20/20) to give the title compound II-ae. 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 4.27 (s, 1H), 3.21 (d, 1H), 2.92 (m, 1H), 2.62-1.24 (m, 18H), 1.50 (s, 3H), 0.93 (s, 3H).

reactant | 17,17-bis(ethylendioxy)-5α-hydroxy-6β-cyanoandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C[C@H]([C@]3(CCCC[C@]3(C)[C@H]1CC4)O)C#N | C24H35NO5
reactant | 6α-cyanoandrostane-3,17-dione | C(#N)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H27NO2
product | 5α-Hydroxy-6β-cyanoandrostane-3,17-dione | 82% yield | O[C@]12[C@@H](C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC(C1)=O)C)=O)C#N | C20H27NO3
